US05240951
Synthesis of 3,4-dichloro-5-isothiazolecarboxylic acid amide (Compound No. 4)
Concentrated sulfuric acid (10 ml) was added to 1.0 g of 5-cyano-3,4-dichloroisothiazole. When heated at 110° C. for 20 minutes, the isothiazole compound was dissolved completely. The reaction mixture was cooled under ice cooling, and precipitated crystals were collected by filtration. The crystals were then recrystallized from a 1:1 mixed solvent of ethanol and water.

reactant | 5-cyano-3,4-dichloroisothiazole | 1.0 g | C(#N)C1=C(C(=NS1)Cl)Cl | C4Cl2N2S
reactant | isothiazole | S1N=CC=C1 | C3H3NS
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 3,4-dichloro-5-isothiazolecarboxylic acid amide | ClC1=NSC(=C1Cl)C(=O)N | C4H2Cl2N2OS
